US06713499B2
1.5 g (0.53 mmol) {2-methoxy-5-[methyl-(tetrahydro-pyran-4-ylmethyl)-amino]-phenyl}-thiourea were dissolved in 15 ml chloroform and at room temperature 0.025 ml (0.5 mmol) Br2 were added slowly. After 24 hrs of reflux the mixture was concentrated in vactio and the residue suspended in water. Sodium bicarbonate solution was added until the pH was 10, and the crystals were collected by filtration. These were subjected to column chromatography (1/1 hexane/ethyl acetate) to afford 0.16 g (10%) of 4-methoxy-N7-methyl-N7-(tetrahydro-pyran-4-ylmethyl)-benzothiazole-2,7-diamine as brown solid. ES-MS m/e (%): 308 (M+H+, 100).

reactant | {2-methoxy-5-[methyl-(tetrahydro-pyran-4-ylmethyl)-amino]-phenyl}-thiourea | 0.53 mmol, 1.5 g | COC1=C(C=C(C=C1)N(CC1CCOCC1)C)NC(=S)N | C15H23N3O2S
reactant | Br2 | 0.5 mmol, 0.025 ml | BrBr | Br2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-methoxy-N7-methyl-N7-(tetrahydro-pyran-4-ylmethyl)-benzothiazole-2,7-diamine | 0.16 g, 10% | COC1=CC=C(C2=C1N=C(S2)N)N(CC2CCOCC2)C | C15H21N3O2S
